US07482462B2
2.86 g of 10-formyl-8-aza-bicyclo[4.3.1]decane-8-carboxylic acid tert-butyl ester and 5.8 g of magnesium monoperoxyphthalic acid hexahydrate in 170 ml of EtOH/H2O (1:1) are stirred at RT. The mixture obtained is diluted with EtAc. The mixture obtained is extracted with aqueous 1M HCl and brine. The organic layer obtained is dried, solvent is evaporated and the evaporation residue is crystallized from MeOH/H2O. 8-aza-bicyclo[4.3.1]decane-8,10-dicarboxylic acid 8-tert-butyl ester is obtained. m.p.: 218-222°; 13C-NMR: 179.88, 155.31, 80.00, 52.43, 50.98, 47.63, 33.14, 32.31, 28.91, 27.06.

reactant | 10-formyl-8-aza-bicyclo[4.3.1]decane-8-carboxylic acid tert-butyl ester | 2.86 g | C(C)(C)(C)OC(=O)N1CC2CCCCC(C1)C2C=O | C15H25NO3
reactant | magnesium monoperoxyphthalic acid hexahydrate | 5.8 g | O.O.O.O.O.O.C(C=1C(C(=O)O)=CC=CC1)(=O)OO.[Mg]
solvent | EtOH H2O | 170 ml | CCO.O
product | 8-aza-bicyclo[4.3.1]decane-8,10-dicarboxylic acid 8-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CCCCC(C1)C2C(=O)O | C15H25NO4
